Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[N:5]([C:6]([H:13])([H:14])[H:15])([H:7])[H:12],81.0348672602674
[C:1]([C@:2]1([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]([O:3][H:11])=[N:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],40.0617303587013
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3][O:4][H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:13])([H:15])[H:16],74.57222902667091
[C:1]([C@@:2]12[C@@:3]([H:11])([O:4]1)[N:6]([H:10])[C:5]2)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],30.048378673311078
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[O:3][C@@:4]1([O:5][H:7])[C:6]([H:12])([H:13])[H:14]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],53.96871471192481
[C:1](=[C:2]([O:3][H:11])/[C:4](=[C:5](\[C:6](=[C:7]([H:16])[H:17])[H:15])[H:14])[H:13])([H:8])[H:9].[H:10][H:12]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],52.83513518909419
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[C:4]([O:3][H:12])=[N:5]/[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],106.624600891835
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N+:4][O-:6])([C:5][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],154.451944413619
[C:1]([C:2]([C@@:4]1([H:14])[C:3]([H:12])=[O+:7][C-:6]([H:17])[C:5]1([H:15])[H:16])([H:11])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],30.652441267365504
[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:10])=[O:4])([H:7])([H:8])[H:9].[C:5]=[N:6][H:11],35.5476317768389
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N+:1](#[C:2][C:3]1=[C:4]=[N+:5]([H:9])[N-:6][N-:7]1)[H:8],90.9656024797262
[O:1]([C:2]([C@@:3]1([H:10])[C:5]([O:4][H:11])=[C:6]1[H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],54.4474171587717
[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:11])=[O:5])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:12])[H:15]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],48.8034747045771
[C:1]([C:2](=[O:3])[C:6]([C:4](=[O:5])[H:11])([H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],65.29576589117674
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])[O:6][H:18],69.3971728107504
[C:1](=[C:3]([C:2]([C:5]([N:4]=[C:6]([H:14])[H:15])([H:12])[H:13])([H:9])[H:10])[H:11])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],107.17798974642751
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:4]([C:5]#[N:6])([H:10])[H:11],74.31635108989231
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([N:3]=[N:4][C:6](=[O:5])[H:9])[H:10])[H:8],85.0076653062376
[C:1]([H:7])([H:8])([H:9])[H:10].[C:2](=[O:3])=[C:4]([C:5]#[N:6])[H:11]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],62.5907706424194
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1]([C+:2]=[C:6]=[N-:7])([O:5][C:4](=[O:3])[H:9])[H:8],54.0059199395659
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([C:5]([H:13])([H:14])[H:15])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]1[H:12])([H:6])([H:7])[H:8].[C:5]([H:11])([H:13])([H:14])[H:15],115.33579512491801
[O:1]=[C:4]=[C:5]([C:3]([C+:2]=[C:6]=[N-:7])([H:8])[H:9])[H:10]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],57.87678477074968
[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:5]([O:6])=[N:7])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10].[H:13][H:14],97.6825905236808
[C:1]([O:2][C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:7](=[C:6]([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],81.38816886471301
